US05026856
7-(4-chloro-2-isoindolinyl]-1-cyclopropyl-6,8-difluoro-1,4- dihydro-4-oxoquinoline-3-carboxylic acid
136 mg of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4- oxoquinoline-3-carboxylic acid, 230 mg of 4-chloroisoindoline, and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 20 to produce 100 mg of the target compound.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4- oxoquinoline-3-carboxylic acid | 136 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 4-chloroisoindoline | 230 mg | ClC1=C2CNCC2=CC=C1 | C8H8ClN
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 7-(4-chloro-2-isoindolinyl]-1-cyclopropyl-6,8-difluoro-1,4- dihydro-4-oxoquinoline-3-carboxylic acid | 100 mg | ClC1=C2CN(CC2=CC=C1)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | C21H15ClF2N2O3
